US06953806B2
0.62 g (2.03 mmol) trans-[4-(2-hydroxy-ethyl)-cyclohexylmethyl]-methyl-carbamic acid benzyl ester dissolved in 10 ml of tetrahydrofuran were submitted to a hydrogenation over 0.3 g of 5% palladium on charcoal as catalyst, at normal pressure and ambient temperature. The cleavage of the benzyloxycarbonyl group was complete after 3 hours. After removal of the catalyst by filtration and evaporation of the solvent, 0.33 g (95%) of trans-2-(4-methylaminomethyl-cyclohexyl)-ethanol were obtained as a colorless oil, MS: 172 (MH+).

reactant | trans-[4-(2-hydroxy-ethyl)-cyclohexylmethyl]-methyl-carbamic acid benzyl ester | 2.03 mmol, 0.62 g | C(C1=CC=CC=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)CCO)=O | C18H27NO3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
product | trans-2-(4-methylaminomethyl-cyclohexyl)-ethanol | 0.33 g, 95% | CNC[C@@H]1CC[C@H](CC1)CCO | C10H21NO
